US08624040B2
Step 1: ethyl 5-(4-chlorobenzoyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate
To ethyl 4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (0.237 g, 1.12 mmol), 4-chlorobenzoic acid (0.228 g, 1.46 mmol) in N,N-dimethylformamide (6 mL) was added a solution of fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (0.444 g, 1.68 mmol) in N,N-diisopropylethylamine (0.6 mL). The reaction solution was then stirred overnight at room temperature. Water was then added and the mixture was extracted into ethyl acetate. The organic layer was washed with brine and evaporated. Purification of the residue obtained on silica gel (0-10% ethyl acetate/DCM) afforded a sticky white solid (208 mg, 53%). LCMS (FA) ES+ 350.

reactant | ethyl 4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 1.12 mmol, 0.237 g | S1C(=CC=2CNCCC21)C(=O)OCC | C10H13NO2S
reactant | 4-chlorobenzoic acid | 1.46 mmol, 0.228 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | fluoro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate | 1.68 mmol, 0.444 g | F[P-](F)(F)(F)(F)F.FC(=[N+](C)C)N(C)C
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | N,N-diisopropylethylamine | 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | ethyl 5-(4-chlorobenzoyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 208 mg, 53% | ClC1=CC=C(C(=O)N2CC3=C(CC2)SC(=C3)C(=O)OCC)C=C1 | C17H16ClNO3S
